US09120791B2
Step A: Methyl 8-formyl-1,4-dioxa-8-azaspiro[4.5]decane-7-carboxylate
24 g of methyl 1,4-dioxa-8-azaspiro[4.5]decane-9-carboxylate (111 mmol) are dissolved in 80 mL of ethyl acetate and 80 mL of dichloromethane. There are added 26 g of (4-nitrophenyl) formate (155 mmol), and the whole is stirred at ambient temperature for one hour. The reaction mixture is evaporated to dryness and taken up in ethyl acetate. The organic phase is subsequently washed in succession with a 1 N NaOH solution, water, and then with a saturated NH4Cl solution until a neutral pH is reached. It is subsequently dried over magnesium sulphate, filtered and concentrated to dryness. The oil so obtained is purified by flash chromatography (heptane/ethyl acetate gradient). The title product is obtained in the form of an oil.

reactant | methyl 1,4-dioxa-8-azaspiro[4.5]decane-9-carboxylate | 111 mmol, 24 g | O1CCOC12CCNC(C2)C(=O)OC | C9H15NO4
reactant | (4-nitrophenyl) formate | 155 mmol, 26 g | C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H5NO4
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Methyl 8-formyl-1,4-dioxa-8-azaspiro[4.5]decane-7-carboxylate | C(=O)N1C(CC2(OCCO2)CC1)C(=O)OC | C10H15NO5
